US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-8-quinolinesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and 8-quinolinesulfonylchloride (61 mg, 0.27 mmol) to give 34 mg of a purple solid. M+1 538.2 Calcd 538.15.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 8-quinolinesulfonylchloride | 0.27 mmol, 61 mg | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-8-quinolinesulfonamide hydrochloride | 34 mg | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C26H27N5O4S2.ClH/c32-36(33,22-9-2-1-3-10-22)30-24-19-21(31-17-6-14-27-16-18-31)12-13-23(24)29-37(34,35)25-11-4-7-20-8-5-15-28-26(20)25;/h1-5,7-13,15,19,27,29-30H,6,14,16-18H2;1H
